US04061641
1-[3,4-Dichlorophenyl]-3-[1-(2-[3-indolyl]ethyl)piperid-4-yl]-thiourea
4-Amino-1-[2-(3-indolyl)ethyl]piperidine hydrate is treated with 3,4-dichlorophenyl isothiocyanate in the manner described in Example 10 to obtain the title compound as the hydrochloride.

reactant | 4-Amino-1-[2-(3-indolyl)ethyl]piperidine hydrate | O.NC1CCN(CC1)CCC1=CNC2=CC=CC=C12
reactant | 3,4-dichlorophenyl isothiocyanate | ClC=1C=C(C=CC1Cl)N=C=S | C7H3Cl2NS
product | 1-[3,4-Dichlorophenyl]-3-[1-(2-[3-indolyl]ethyl)piperid-4-yl]-thiourea | ClC=1C=C(C=CC1Cl)NC(=S)NC1CCN(CC1)CCC1=CNC2=CC=CC=C12 | C22H24Cl2N4S
